US08557983B2
6-Methoxy-1H-indol-5-ol
5-(benzyloxy)-6-methoxy-1H-indole (3.00 g) was added to methanol (100 mL) and ethyl acetate (100 mL) in a pressure bottle. Palladium hydroxide on carbon (0.832 g) was added and the solution was shaken under 30 psi of hydrogen at room temperature for 40 minutes. The mixture was filtered through a nylon membrane, the solvent removed under vacuum, the residue taken up in ethyl acetate, the solution was filtered over a pad of silica gel, and the solvent was removed from the filtrate under vacuum.

reactant | 5-(benzyloxy)-6-methoxy-1H-indole | 3.00 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1OC | C16H15NO2
reactant | methanol | 100 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide on carbon | 0.832 g | [OH-].[OH-].[Pd+2]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Methoxy-1H-indol-5-ol | COC1=C(C=C2C=CNC2=C1)O | C9H9NO2
